* /Users/league/Desktop/Level-1/Lesson 9/Untitled.asc
V1 N001 0 9
R1 N001 Vb 175k
R2 Vb 0 175k
R3 N002 VLED 47.5
Rt Vb 0 {Rp}
Q1 N001 Vb N002 0 2n2222
D1 VLED 0 WP710A10QBC-2
.model D D
.lib /Users/league/Library/Application Support/LTspice/lib/cmp/standard.dio
.model NPN NPN
.model PNP PNP
.lib /Users/league/Library/Application Support/LTspice/lib/cmp/standard.bjt
.tran 0 1ms 0 1us startup
.step param Rp 80k 600k 20k
.lib WP710A10QBC.SP3
.backanno
.end
