*
V1 N001 0 9 Rser=0
R1 N002 N001 1
D1 N002 N004 WP710A10QBC-2
D2 N004 N003 WP710A10QBC-2
R2 N003 0 1000
.model D D
.lib /Users/league/Library/Application Support/LTspice/lib/cmp/standard.dio
.lib WP710A10QBC.SP3
.tran 0 1ms 1us startup
.backanno
.end
